US04099000
A solution of CH3SO2Cl (34 μl, 0.44 mMol) in anhydrous CH2Cl2 (0.5 ml.) is added dropwise over 4 min. to an ice-cold, stirring solution of p-nitrobenzyl 7α-azido-3-hydroxy-3-methyl-cepham-4-carboxylate (135 mg., 0.34 mMol) and Et3N (71 μl, 0.51 mMol) in anhydrous CH2Cl2 (2 ml.). After stirring 15 more min. in the cold, the reaction mixture is diluted with cold CH2Cl2 (2 ml.), washed with ice-cold H2O (2 ml.), ice-cold 5% HCl (2 ml.), and ice-cold 5% NaHCO3 (2 ml.), dried over MgSO4, and filtered. Evaporation of the solvent in vacuo gives p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-methyl-cepham-4-carboxylate (156 mg.) as a pale yellow oil: ir (CHCl3) 4.76, 5.62, 5.75, 6.57, 7.40, 8.47, and 11.1μ; nmr (CDCl3) δ2.10 (s, 3, CH3), 2.93 (s, 3, SO2CH3), 3.02 (d, l, J=14Hz, SCH), 3.87 (d, l, J=14Hz, SCH), 4.53 (d, l, J=1.2Hz, H7), 4.80 (s, l, H4), 4.97 (d, l, J=1.2Hz, H6), 5.35 (s, 2, CH2Ar), and 7.60, 8.28 (two d's 4, J=8.7Hz, ArH).

reactant | CH3SO2Cl | 0.44 mMol, 34 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | p-nitrobenzyl 7α-azido-3-hydroxy-3-methyl-cepham-4-carboxylate | 0.34 mMol, 135 mg | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(C)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C15H15N5O6S
reactant | Et3N | 0.51 mMol, 71 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-methyl-cepham-4-carboxylate | 156 mg | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(C)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H17N5O8S2
